US09284308B2
(3-Fluorophenyl)(pyridin-3-yl)methanol
(3-Fluorophenyl)magnesium bromide (1 M in THF, 9.3 mL, 9.3 mmol) was added dropwise by syringe to a solution of nicotinaldehyde (0.88 mL, 9.3 mmol) in dry THF (20 mL) at 0° C. The reaction mixture was stirred while warming to room temperature for 30 minutes, then quenched with saturated aqueous ammonium chloride solution. The mixture was partitioned between water and ethyl acetate. The aqueous phase was extracted with ethyl acetate once and the organic layer was washed with water three times. The combined organic layers were dried (Na2SO4), filtered, and concentrated to dryness. The crude product was purified by flash column chromatography (silica gel, 0-60% EtOAc-hexanes) to provide the title compound.

reactant | (3-Fluorophenyl)magnesium bromide | 9.3 mmol, 1 M, 9.3 mL | FC=1C=C(C=CC1)[Mg]Br
reactant | nicotinaldehyde | 9.3 mmol, 0.88 mL | C(C1=CN=CC=C1)=O | C6H5NO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (3-Fluorophenyl)(pyridin-3-yl)methanol | FC=1C=C(C=CC1)C(O)C=1C=NC=CC1 | C12H10FNO
